US07776857B2
A sealed pressure flask was charged with 2-bromopyridin-3-ol (10.0 g, 57.5 mmol), ethynyltrimethylsilane (15.9 ml, 115 mmol), copper (I) iodide (1.09 g, 5.75 mmol), bis(triphenylphosphine)palladium(II) chloride (2.02 g, 2.87 mmol) and 7.5 mL of dioxane. Ethynyltrimethylsilane (15.9 ml, 115 mmol) and TEA (40.0 ml, 287 mmol) were added, the vial was flushed with nitrogen, and the reaction was stirred at 50° C. for 18 h. The reaction was concentrated and purified via column chromatography (gradient elution 0-40% EtOAc:Hex) to afford 2-(trimethylsilyl)furo[3,2-b]pyridine as a brown oil. MS Found M+H+=192.3

reactant | 2-bromopyridin-3-ol | 57.5 mmol, 10.0 g | BrC1=NC=CC=C1O | C5H4BrNO
reactant | ethynyltrimethylsilane | 115 mmol, 15.9 ml | C(#C)[Si](C)(C)C | C5H10Si
reactant | Ethynyltrimethylsilane | 115 mmol, 15.9 ml | C(#C)[Si](C)(C)C | C5H10Si
catalyst | copper (I) iodide | 5.75 mmol, 1.09 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 2.87 mmol, 2.02 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dioxane | 7.5 mL | O1CCOCC1 | C4H8O2
product | 2-(trimethylsilyl)furo[3,2-b]pyridine | C[Si](C1=CC2=NC=CC=C2O1)(C)C | C10H13NOSi
